US04346225
4-(4-Fluorobenzoyl)-5,5-dimethyl-2-methylamino-4,5-dihydro-1,3,4-thiadiazole
A 42 g. portion of 4-methylthiosemicarbazide was reacted with 400 ml. of acetone, and then with 32 ml. of pyridine and 63.6 g. of 4-fluorobenzoyl chloride, and the mixture was worked-up as described in Example 1. The product was recrystallized from 80 ml. of nitromethane to obtain 43 g. of the desired product, 138°-144°.

reactant | 4-methylthiosemicarbazide | CNC(NN)=S | C2H7N3S
reactant | acetone | CC(=O)C | C3H6O
reactant | 4-fluorobenzoyl chloride | FC1=CC=C(C(=O)Cl)C=C1 | C7H4ClFO
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 4-(4-Fluorobenzoyl)-5,5-dimethyl-2-methylamino-4,5-dihydro-1,3,4-thiadiazole | FC1=CC=C(C(=O)N2N=C(SC2(C)C)NC)C=C1 | C12H14FN3OS
